US07846960B2
4′-Hydroxy-biphenyl-3-carboxylic Acid Ethyl Ester
To a solution of 4′-Benzyloxy-biphenyl-3-carboxylic acid ethyl ester (2.3 g) in ethanol/ethyl acetate (3:1) (200 mL) is added 5% palladium on carbon (300 mg). The reaction mixture is placed under an atmosphere of hydrogen (55 psi) and is shaken on a Parr apparatus for 2 h. Concentrated hydrochloric acid (0.3 mL) is added to the reaction mixture. The reaction mixture is allowed to proceed for an additional 10 h. Trifluoroacetic acid (1 mL) and 20% palladium hydroxide on carbon (300 mg) are added to the reaction mixture and the reaction is allowed to stir under an atmosphere of hydrogen (60 psi). After an additional 80 h, the reaction mixture is degassed with nitrogen and is filtered though a plug of silica gel, eluting with 500 mL ethyl acetate and 500 mL ethanol. The filtrate is concentrated under reduced pressure and the residue is diluted with 400 mL saturated sodium bicarbonate solution. The product is extracted three times with methylene chloride. The combined organic layers are dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford the title compound (1.6 g, 95%) as a white solid.

reactant | 4′-Benzyloxy-biphenyl-3-carboxylic acid ethyl ester | 2.3 g | C(C)OC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H20O3
reactant | hydrochloric acid | 0.3 mL | Cl | ClH
reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol ethyl acetate | 200 mL | C(C)O.C(C)(=O)OCC
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
catalyst | palladium hydroxide on carbon | 300 mg | [OH-].[OH-].[Pd+2]
product | 4′-Hydroxy-biphenyl-3-carboxylic Acid Ethyl Ester | 1.6 g, 95% | C(C)OC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C15H14O3
